US07205292B2
Step A: 1-(Cyclopropylmethyl)-6-phenylazepan-2-one
Sodium hydride (60% dispersion in mineral oil; 0.793 g, 19.8 mmol) was added to a solution of 6-phenylazepan-2-one (2.50 g, 13.2 mmol) and cyclopropylmethyl bromide (1.92 mL, 19.8 mmol) in N,N-dimethylformamide (30 mL) at 0° C., then the mixture allowed to warm to ambient temperature. After 18 h the mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with water (3×) and saturated brine, dried over magnesium sulfate, filtered, and concentrated. Purification by silica gel chromatography (1% methanol/dichloromethane→5% methanol/dichloromethane) gave the title compound (2.33 g). MS 244 (M+1).

reactant | Sodium hydride | 19.8 mmol, 0.793 g | [H-].[Na+]
reactant | 6-phenylazepan-2-one | 13.2 mmol, 2.50 g | C1(=CC=CC=C1)C1CCCC(NC1)=O | C12H15NO
reactant | cyclopropylmethyl bromide | 19.8 mmol, 1.92 mL | C1(CC1)CBr | C4H7Br
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-(Cyclopropylmethyl)-6-phenylazepan-2-one | 2.33 g | C1(CC1)CN1C(CCCC(C1)C1=CC=CC=C1)=O | C16H21NO
